US08183264B2
3-(4-(4-Benzyloxy-benzyl)-[1,2,3]triazol-1-yl)-pyridin-2-ylamine
To a solution of DMSO (5.0 mL), water (1.0 mL) and 1-benzyloxy-4-prop-2-ynyl-benzene (50 mg) described in Manufacturing Example 12-2 were added sodium azide (16 mg), 3-iodopyridin-2-ylamine (50 mg) described in Manufacturing Example 1-2, copper(I) iodide (4.3 mg), (1S,2S)—N,N′-dimethylcyclohexane-1,2-diamine (CAS No. 87583-89-9; 4.8 mg), and sodium ascorbate (4.5 mg), which was stirred for 3 hours at 60° C., and then, which was stirred for 2 days at room temperature. Water and ethyl acetate were added to the reaction mixture, and the organic layer was extracted. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtered, and then the filtrate was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=2:1) to obtain the titled compound (6.7 mg).

reactant | 1-benzyloxy-4-prop-2-ynyl-benzene | 50 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC#C | C16H14O
reactant | sodium azide | 16 mg | [N-]=[N+]=[N-].[Na+]
reactant | 3-iodopyridin-2-ylamine | 50 mg | IC=1C(=NC=CC1)N | C5H5IN2
reactant | (1S,2S)—N,N′-dimethylcyclohexane-1,2-diamine | CN[C@@H]1[C@H](CCCC1)NC | C8H18N2
reactant | sodium ascorbate | 4.5 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
catalyst | copper(I) iodide | 4.3 mg | [Cu]I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | water | 1.0 mL | O | H2O
solvent | DMSO | 5.0 mL | CS(=O)C | C2H6OS
product | 3-(4-(4-Benzyloxy-benzyl)-[1,2,3]triazol-1-yl)-pyridin-2-ylamine | 6.7 mg | C(C1=CC=CC=C1)OC1=CC=C(CC=2N=NN(C2)C=2C(=NC=CC2)N)C=C1 | C21H19N5O
